US07855294B2
1) 1-Benzyl-4-o-tolyl-1,2,3,6-tetrahydropyridine
600 mL of 0.5 M o-tolylmagnesium bromide-tetrahydrofuran solution was cooled to 0° C., and 200 mL of tetrahydrofuran solution of 40.0 g of 1-benzylpiperidin-4-one was dropwise added thereto, over 10 minutes. Cooled with ice, the reaction mixture was stirred further for 30 minutes. Then, aqueous saturated ammonium chloride solution was added thereto to stop the reaction, and this was extracted three times with ethyl acetate. The organic layer was washed with saturated saline water, dried with anhydrous magnesium sulfate, and the solvent was evaporated off under reduced pressure. 300 mL of trifluoroacetic acid was added to the resulting residue, heated up to 80° C., and stirred for 2 hours. The reaction liquid was concentrated under reduced pressure, the residue was neutralized with aqueous saturated sodium hydrogencarbonate solution, and then extracted with ethyl acetate. The organic layer was washed with saturated saline water, dried with anhydrous magnesium sulfate, and the solvent was evaporated off under reduced pressure. The residue was separated and purified through silica gel column chromatography (hexane/ethyl acetate=20/1 to 10/1) to obtain 39.9 g of the entitled compound as a pale brown oily substance.

reactant | o-tolylmagnesium bromide tetrahydrofuran | 0.5 M, 600 mL | C1(=C(C=CC=C1)[Mg]Br)C.O1CCCC1
reactant | 1-benzylpiperidin-4-one | 40.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-Benzyl-4-o-tolyl-1,2,3,6-tetrahydropyridine | 39.9 g | C(C1=CC=CC=C1)N1CCC(=CC1)C1=C(C=CC=C1)C | C19H21N
